US09169261B2
To a solution of 6-methylquinazoline-2-carboxylic acid (0.040 g, 0.21 mmol, 1.2 eq) and (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine (0.49 g, 0.18 mmol, 1 eq) in 1 mL of DMSO was added triethylamine (0.10 mL, 0.7 mmol, 4 eq) and HATU (0.075 g, 0.20 mmol, 1.1 eq). After stirring for 1 h at room temperature, the mixture was concentrated and purified by HPLC to afford (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-6-methylquinazoline-2-carboxamide (0.057 g, 0.15 mmol, 86%). 1H NMR (400 MHz, CD3OD) δ 9.48 (s, 1 H), 8.02 (d, J=1.6 Hz, 2 H), 7.98-7.88 (m, 3 H), 7.78 (s, 1 H), 7.17 (d, J=5.8 Hz, 1 H), 5.00-3.80 (br, 4 H), 2.60 (s, 3H), 2.65-2.40 (br, 2 H); MS: (ES) m/z calculated for C20H19N7O [M+H]+ 374.2, found 374.

reactant | 6-methylquinazoline-2-carboxylic acid | 0.21 mmol, 0.040 g, 1.2 eq | CC=1C=C2C=NC(=NC2=CC1)C(=O)O | C10H8N2O2
reactant | (S)-1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-amine | 0.18 mmol, 0.49 g, 1 eq | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)N | C10H13N5
reactant | triethylamine | 0.7 mmol, 0.10 mL, 4 eq | C(C)N(CC)CC | C6H15N
reactant | HATU | 0.20 mmol, 0.075 g, 1.1 eq | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | (S)—N-(1-(imidazo[1,2-a]pyrazin-8-yl)pyrrolidin-3-yl)-6-methylquinazoline-2-carboxamide | 0.15 mmol, 0.057 g, 86% | N=1C=CN2C1C(=NC=C2)N2C[C@H](CC2)NC(=O)C2=NC1=CC=C(C=C1C=N2)C | C20H19N7O
